US07273878B2
To 100 ml of N,N-dimethylformamide, 17.1 g (100 mmol) of 2-phenylacetoamidine hydrochloric acid salt, synthesized in accordance with a method described in “Tetrahedron”, page 887 (1984), 18.6 g (100 mmol) of ethyl 2-acetyl-3-ethoxyacrylate and 9.0 g (110 mmol) of sodium acetate were suspended, followed by stirring at 100° C. for 3 hours. The reaction liquid was cooled and then poured into ice water, and extracting with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentrating under reduced pressure to obtain 22.8 g (yield: 89%) of ethyl 2-benzyl-4-methylpyrimidine-5-carboxylate.

reactant | 2-phenylacetoamidine hydrochloric acid salt | 100 mmol, 17.1 g | Cl.C1(=CC=CC=C1)CC(=N)N
reactant | ethyl 2-acetyl-3-ethoxyacrylate | 100 mmol, 18.6 g | C(C)(=O)C(C(=O)OCC)=COCC | C9H14O4
reactant | sodium acetate | 110 mmol, 9.0 g | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 2-benzyl-4-methylpyrimidine-5-carboxylate | 22.8 g, yield: 89% | C(C1=CC=CC=C1)C1=NC=C(C(=N1)C)C(=O)OCC | C15H16N2O2
